US06846819B1
b) (E)-3-(6-Aminopyridin-3-yl)-2-methylacrylic acid HCl salt
To ethyl (E)-3-(6-aminopyridin-3-yl)-2-methylacrylate (5.0 g, 24.2 mmole) was added HOAc (25 mL) and conc. HCl (25 mL). The reaction was stirred and heated at 100° C. for 6 hr, cooled to RT and concentrated to dryness. The remaining residue was triturated with Et2O, filtered and dried under vacuum to give the title compound (5.5 g, quantitative) as a white solid: LCMS (ES) m/e 179.0 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 8.47 (br s, 2H), 8.16 (d, J=1.7 Hz,1H), 8.08 (dd,1H), 7.42 (s,1H), 7.08 (d, J=9.3 Hz,1H), 2.01 (s, 3H).

reactant | ethyl (E)-3-(6-aminopyridin-3-yl)-2-methylacrylate | 24.2 mmole, 5.0 g | NC1=CC=C(C=N1)/C=C(/C(=O)OCC)\C | C11H14N2O2
reactant | HCl | 25 mL | Cl | ClH
solvent | HOAc | 25 mL | CC(=O)O | C2H4O2
product | (E)-3-(6-Aminopyridin-3-yl)-2-methylacrylic acid HCl salt | 5.5 g | Cl.NC1=CC=C(C=N1)/C=C(/C(=O)O)\C | InChI=1S/C9H10N2O2.ClH/c1-6(9(12)13)4-7-2-3-8(10)11-5-7;/h2-5H,1H3,(H2,10,11)(H,12,13);1H/b6-4+;
